US08461167B2
3-Ethynyl-5-(pyrrolidin-1-ylmethyl)pyridine
To a solution of 3-(pyrrolidin-1-ylmethyl)-5-[(trimethylsilyl)ethynyl]pyridine (0.7 mmol) in 3.5 mL of THF is added 1.05 mL (1.05 mmol) of tetrabutylammonium fluoride (1.0M in THF) at ambient temperature. The solution is stirred for 15 min, concentrated, and the crude product is purified by silica gel flash chromatography (eluted with 50% EtOAc/hexanes) to provide product.

reactant | 3-(pyrrolidin-1-ylmethyl)-5-[(trimethylsilyl)ethynyl]pyridine | 0.7 mmol | N1(CCCC1)CC=1C=NC=C(C1)C#C[Si](C)(C)C | C15H22N2Si
reactant | tetrabutylammonium fluoride | 1.05 mmol, 1.0M, 1.05 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 3-Ethynyl-5-(pyrrolidin-1-ylmethyl)pyridine | C(#C)C=1C=NC=C(C1)CN1CCCC1 | C12H14N2
